US08957080B2
Into a 100 mL 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of 1-bromo-2-fluoro-4-phenoxybenzene (2 g, 7.49 mmol, 1.00 equiv) in tetrahydrofuran (20 mL). BuLi (1M) (8 mL) was added dropwise with stirring at −70 to −80° C. The resulting solution was stirred for 30 min at −70-80° C. in a liquid nitrogen bath. Tris(propan-2-yl)borate (1.7 g, 9.04 mmol, 1.21 equiv) was added dropwise with stirring at −70 to −80° C. The resulting solution was allowed to react, with stirring, for an additional 2 h while the temperature was maintained at −70 to −80° C. The reaction was then quenched by the addition of 100 mL of water, extracted with ethyl acetate and the organic layers were combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:20) to give 1.6 g (92%) of (2-fluoro-4-phenoxyphenyl)-boronic acid as a white solid.

reactant | 1-bromo-2-fluoro-4-phenoxybenzene | 7.49 mmol, 2 g, 1.00 equiv | BrC1=C(C=C(C=C1)OC1=CC=CC=C1)F | C12H8BrFO
reactant | BuLi | 1M, 8 mL | [Li]CCCC
reactant | Tris(propan-2-yl)borate | 9.04 mmol, 1.7 g, 1.21 equiv | CC(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2-fluoro-4-phenoxyphenyl)-boronic acid | 1.6 g, 92% | FC1=C(C=CC(=C1)OC1=CC=CC=C1)B(O)O | C12H10BFO3
